US04517195
8-Chloro-5-(2-fluorophenyl)-1-methyl-1H-pyrrolo[1,2-b][1,2,5]-triazepin-2(3H)-one hydrochloride
A solution containing 5-(2-fluorophenyl)-1-methyl-1H-pyrrolo[1,2-b][1,2,5]triazepin-2(3H)-one hydrochloride (3.3 g, 12.9 mmol) and N-chlorosuccinimide (1.87 g, 14 mmol) in 100 ml of dry tetrahydrofuran was refluxed under N2 for 3 hours. The resultant solution was evaporated and the residual oil was taken up in 200 ml of EtOAc, washed with H2O, dried (MgSO4), filtered, and evaporated to an oil. This oil was purified by flash chromatography (silica, 4:7 hexane-ether) to given an oil (2.1 g). This oil was treated with ethereal HCl and the resultant solid was recrystallized from isopropanol-ether to give 2.36 g (55%) of powder, m.p. 218° dec.

reactant | 5-(2-fluorophenyl)-1-methyl-1H-pyrrolo[1,2-b][1,2,5]triazepin-2(3H)-one hydrochloride | 12.9 mmol, 3.3 g | Cl.FC1=C(C=CC=C1)C=1C=2N(N(C(CN1)=O)C)C=CC2
reactant | N-chlorosuccinimide | 14 mmol, 1.87 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 8-Chloro-5-(2-fluorophenyl)-1-methyl-1H-pyrrolo[1,2-b][1,2,5]-triazepin-2(3H)-one hydrochloride | 2.36 g, 55% | Cl.ClC1=CC=C2N1N(C(CN=C2C2=C(C=CC=C2)F)=O)C | InChI=1S/C14H11ClFN3O.ClH/c1-18-13(20)8-17-14(9-4-2-3-5-10(9)16)11-6-7-12(15)19(11)18;/h2-7H,8H2,1H3;1H
